US06110961
Cs2CO3 was added in 3 portions over 15 min to a stirred solution of 2-bromo-3 nitrophenol (3.00 g, 13.8 mmol) and 2-iodopropane (4.79 g, 27.6 mmol) in 50 ml anhydrous DMF cooled to 0° C. under N2. The reaction was allowed to warm to ambient temperature (2 h) and stirred overnight (17 h). EtOAc (250 ml) was added, the reaction mixture washed with water (2×250 ml) and brine (250 ml), dried (Na2SO4) and concentrated in vacuo to an orange oil (3.78 g). Purification by column chromatography (EtOAc/hexane, 5:95) afforded 3.49 g (97%) of 2-bromo-3-isopropoxynitrobenzene as a yellow oil. TLC (EtOAc/hexane 20:80)Rf =0.12; HPLC (Tr =16.1); 1H-NMR (CDCl3) d 1.35 (d, J=6 Hz, 6H), δ 4.56 (m, J=6 Hz, 1H), δ 6.95 (dd, J=8 Hz, J=3 Hz, 1H), δ 7.34 (d, J=3 Hz, 1H), δ 7.57 (d, J=8 Hz, 1H): MS m/z (relative intensity) 260 (MH+, 100), 262 (MH+ +2, 72).

reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-3 nitrophenol | 13.8 mmol, 3.00 g | BrC1=C(C=CC=C1[N+](=O)[O-])O | C6H4BrNO3
reactant | 2-iodopropane | 27.6 mmol, 4.79 g | IC(C)C | C3H7I
reactant | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-bromo-3-isopropoxynitrobenzene | 3.49 g, 97% | BrC1=C(C=CC=C1OC(C)C)[N+](=O)[O-] | C9H10BrNO3
